US07517873B2
A solution of 1.7 g (0.0052 mole) of 3-[(2-chloro-5-nitro-pyrimidin-4-yl)-cyclobutyl-amino]-propanoic acid ethyl ester (IV-23) in 10 mL of ethyl acetate was added over 1 hour to a suspension of 3.5 g (0.016 mole) of stannous chloride dihydrate in 12 mL of ethyl acetate and 1 mL of hydrochloric acid at ambient temperature. The mixture was stirred for additional hour and then diluted with 30 mL of water, and extracted with ethyl acetate. The ethyl acetate layer was dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography, eluting with hexanes-ethyl acetate (80:20-0:100) to give 0.87 g of 2-chloro-9-cyclobutyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VI-23)

reactant | 3-[(2-chloro-5-nitro-pyrimidin-4-yl)-cyclobutyl-amino]-propanoic acid ethyl ester | 0.0052 mole, 1.7 g | C(C)OC(CCN(C1CCC1)C1=NC(=NC=C1[N+](=O)[O-])Cl)=O | C13H17ClN4O4
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 12 mL | C(C)(=O)OCC | C4H8O2
solvent | hydrochloric acid | 1 mL | Cl | ClH
solvent | water | 30 mL | O | H2O
product | 2-chloro-9-cyclobutyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.87 g | ClC=1N=CC2=C(N(CCC(N2)=O)C2CCC2)N1 | C11H13ClN4O
